US05252601
Step a: 2-Carbomethoxy-2-(t-butyl)thiomethyl-1,2,3,4-tetrahydronaphthalene
Dissolve diisopropylamine (2.31 mL, 16.5 mmol) in anhydrous tetrahydrofuran (10 mL), cool to -70° C. and place under an argon atmosphere. Add, by dropwise addition, n-butyllithium (6.6 mL of a 2.5M solution in hexane, 16.5 mmol). Stir at -70° C. for 20 minutes then add, by dropwise addition, a solution of 2-carbomethoxy-1,2,3,4-tetrahydronaphthalene (2.85 g, 15 mmol) in anhydrous tetrahydrofuran (10 mL). Stir an additional 30 minutes then add trimethylsilyl chloride (1.9 mL, 15 mmol). Evaporate the solvent in vacuo and suspend the residue in anhydrous methylene chloride (30 mL). Treat with t-butyl chloromethylsulfide (2.08 g, 15 mmol) and 3 portions of zinc bromide (300 mg each) over 15 minutes. The mixture spontaneously warms to reflux. Quickly bring to room temperature with an ice bath and wash with water then saturated sodium hydrogen carbonate. Dry (MgSO4) and evaporate the solvent in vacuo to give a yellow oil. Purify by silica gel chromatography (30% methylene chloride/hexane then 70% methylene chloride/hexane) and recrystallize (methanol) to give the title compound (2.89 g, 65.2%).

reactant | diisopropylamine | 16.5 mmol, 2.31 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | 2-carbomethoxy-1,2,3,4-tetrahydronaphthalene | 15 mmol, 2.85 g | C(=O)(OC)C1CC2=CC=CC=C2CC1 | C12H14O2
reactant | trimethylsilyl chloride | 15 mmol, 1.9 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | t-butyl chloromethylsulfide | 15 mmol, 2.08 g | C(C)(C)(C)C(Cl)SC(C(C)(C)C)Cl | C10H20Cl2S
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
catalyst | zinc bromide | 300 mg | [Br-].[Zn+2].[Br-]
product | 2-Carbomethoxy-2-(t-butyl)thiomethyl-1,2,3,4-tetrahydronaphthalene | 2.89 g, 65.2% | C(=O)(OC)C1(CC2=CC=CC=C2CC1)CSC(C)(C)C | C17H24O2S
